US09210927B2
Preparation of (E)-N-(2-Chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)benzyl)acetamide (CC7)
To a stirred solution of (E)-(2-chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl)methanamine (0.3 g, 0.8 mmol) in DMF (5 mL) was added 2,2,2-trifluoropropanoic acid (97 mg, 0.76 mmol), HOBt.H2O (174 mg, 1.14 mmol) and EDC.HCl (217 mg, 1.14 mmol) and DIPEA (196 mg, 1.52 mmol), and the resultant reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was diluted with H2O and extracted with EtOAc. The combined EtOAc layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; ethyl acetate in hexane (30-50% afforded the title compound as an off-white solid (0.2 g, 60%): mp 127-128° C.; 1H NMR (400 MHz, CDCl3) δ 7.42 (m, 4H), 7.24 (m, 2H), 6.53 (d, J=16.0 Hz, 1H), 6.36 (dd, J=16.0, 8.0 Hz, 1H), 5.86 (br s, 1H), 4.51 (d, J=6.0 Hz, 2H), 4.05 (m, 1H), 2.02 (s, 3H); ESIMS m/z 436.03 ([M+H]+).

reactant | (E)-(2-chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl)methanamine | 0.8 mmol, 0.3 g | ClC1=C(C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)CN | C17H13Cl3F3N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 1.14 mmol, 217 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 1.52 mmol, 196 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | H2O | 1.14 mmol, 174 mg | O | H2O
product | (E)-N-(2-Chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)benzyl)acetamide | 0.2 g, 60% | ClC1=C(CNC(C)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H15Cl3F3NO
